US05482971
One equivalent of 5-(3-chlorophenyl)-3-(2-(3,4-dihydroxyphenyl)-1-methylethyl)-2-oxazolidinone, prepared by the procedure of U.S. Pat. No. 5,061,727 Example 1, is treated with one equivalent of 1,3-dibromoacetone and excess potassium carbonate in acetonitrile. The mixture is stirred at room temperature for 18 hours, filtered and evaporated in vacuo to give 7-(2-(5-(3-chlorophenyl)-2-oxo-3-oxazolidinyl)propyl)-1,5-dioxabenzocycloheptan-3-one. One equivalent of this ketone is reduced, at room temperature for one hour, with excess sodium borohydride in methyl alcohol. The reaction mixture is poured into water, made acidic with 1N hydrochloric acid and extracted with methylene chloride. The organic extracts are dried and evaporated in vacuo to give 7-(2-(5-(3-chlorophenyl)-2-oxo-3-oxazolidinyl)propyl-1,5-dioxabenzocycloheptan-3-ol. Hydrolysis with 2.5N sodium hydroxide gives the title compound.

reactant | 5-(3-chlorophenyl)-3-(2-(3,4-dihydroxyphenyl)-1-methylethyl)-2-oxazolidinone | One equivalent | ClC=1C=C(C=CC1)C1CN(C(O1)=O)C(CC1=CC(=C(C=C1)O)O)C | C18H18ClNO4
reactant | 1,3-dibromoacetone | one equivalent | BrCC(=O)CBr | C3H4Br2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 7-(2-(5-(3-chlorophenyl)-2-oxo-3-oxazolidinyl)propyl)-1,5-dioxabenzocycloheptan-3-one | ClC=1C=C(C=CC1)C1CN(C(O1)=O)C(CC1COC2=C(CC1)OCC(C2)=O)C | C21H24ClNO5
